US06653340B1
A mixture of 6-methoxybenzo[b]thiophene-2-carbonitrile (2.6 g, 13.74 mmol) and pyridinium chloride (12.5 g, 108.17 mmol) was heated at 190-200° C. for 1.5 h. The mixture was allowed to cool to room temperature and then triturated with cold water (30 mL). The precipitated solid was collected by filtration, washed with water (10 mL), and recrystallized from toluene to give 1.7 g (71%) of 6-hydroxybenzo[b]thiophene-2-carbonitrile as a brown solid, mp 195-198° C.

reactant | 6-methoxybenzo[b]thiophene-2-carbonitrile | 13.74 mmol, 2.6 g | COC=1C=CC2=C(SC(=C2)C#N)C1 | C10H7NOS
reactant | pyridinium chloride | 108.17 mmol, 12.5 g | [Cl-].[NH+]1=CC=CC=C1
product | 6-hydroxybenzo[b]thiophene-2-carbonitrile | 1.7 g, 71% | OC=1C=CC2=C(SC(=C2)C#N)C1 | C9H5NOS
